US05246935
A mixture of 3,4,5-trimethoxyaniline (365 mg; 2.0 mmol) in toluene (20 ml) and phosgene (6 ml 20% in toluene; 12 mmol) was refluxed for 6 h. The solvent was removed under reduced pressure to give crude 3,4,5-trimethoxyphenylisocyanate. The crude product was added 3-[4-(4-chloro-phenyl)-1-piperazinyl]propanol (800 mg; 3.1 mmol) in toluene (25 ml) and refluxed for 16 h. The solvent was evaporated and the residue taken up in ethanol, which was treated with hydrogen chloride in ether. Recrystallization from ethanol/ether afforded 620 mg of the title compound M.p. 173.5°-174.5° C.

reactant | 3,4,5-trimethoxyaniline | 2.0 mmol, 365 mg | COC=1C=C(N)C=C(C1OC)OC | C9H13NO3
reactant | phosgene | 12 mmol, 6 ml | C(=O)(Cl)Cl | CCl2O
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 3,4,5-trimethoxyphenylisocyanate | COC=1C=C(C=C(C1OC)OC)N=C=O | C10H11NO4
